US09260397B2
1-(4-nitrophenyl)-3-heptyl imidazolium bromide
According to the general synthesis procedure, 5.3 mmol (1.00 g) 1-(4-nitrophenyl)imidazole and 6.3 mmol (1.14 g, 1.0 ml) 1-bromoheptane are dissolved in 5 ml THF and heated for 48 h to 90° C.

reactant | 1-(4-nitrophenyl)imidazole | 5.3 mmol, 1.00 g | [N+](=O)([O-])C1=CC=C(C=C1)N1C=NC=C1 | C9H7N3O2
reactant | 1-bromoheptane | 6.3 mmol, 1.0 ml, 1.14 g | BrCCCCCCC | C7H15Br
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 1-(4-nitrophenyl)-3-heptyl imidazolium bromide | [Br-].[N+](=O)([O-])C1=CC=C(C=C1)[N+]1=CN(C=C1)CCCCCCC | InChI=1S/C16H22N3O2.BrH/c1-2-3-4-5-6-11-17-12-13-18(14-17)15-7-9-16(10-8-15)19(20)21;/h7-10,12-14H,2-6,11H2,1H3;1H/q+1;/p-1
